US07989460B2
6-methoxy-4-[(3-methyl-1H-indol-5-yl)oxy]-7-[(piperidin-4-yl)methoxy]quinazoline (0.4 g), prepared as described for the starting material in Example 1, was dissolved in dichloromethane (15 ml). PS-DIEA resin (0.6 g; 4 mmol/g) was added followed by chloroacetyl chloride (0.091 ml). The reaction mixture was stirred at ambient temperature for 3 hours then diluted with methanol and the resin removed by filtration. The solvent was evaporated under vacuum and the residue was purified by column chromatography on silica using increasingly polar solvent mixtures, starting with dichloromethane and ending with dichloromethane/methanol (92/8). Removal of the solvents by evaporation gave 7-{[1-(chloroacetyl)piperidin-4-yl]methoxy}-6-methoxy-4-[(3-methyl-1H-indol-5-yl)oxy]quinazoline (0.237 g) as a solid foam.

reactant | 6-methoxy-4-[(3-methyl-1H-indol-5-yl)oxy]-7-[(piperidin-4-yl)methoxy]quinazoline | 0.4 g | COC=1C=C2C(=NC=NC2=CC1OCC1CCNCC1)OC=1C=C2C(=CNC2=CC1)C | C24H26N4O3
reactant | DIEA | 0.6 g | CCN(C(C)C)C(C)C | C8H19N
reactant | chloroacetyl chloride | 0.091 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 7-{[1-(chloroacetyl)piperidin-4-yl]methoxy}-6-methoxy-4-[(3-methyl-1H-indol-5-yl)oxy]quinazoline | 0.237 g | ClCC(=O)N1CCC(CC1)COC1=C(C=C2C(=NC=NC2=C1)OC=1C=C2C(=CNC2=CC1)C)OC | C26H27ClN4O4
